US09102664B2
c) Preparation of (S)—N′-(2-(benzyloxy)propylidene)formo hydrazide (Formula-16)
To a pre-cooled solution of formyl hydrazine (40.3 g) in methanol (290 ml) at 0-5° C., toluene layer containing (S)-2-(benzyloxy)propanal compound of formula-15 obtained in step-b) was added. Slowly raised the temperature of reaction mixture to 25-30° C. and stirred for 4 hours at 25-30° C. After completion of the reaction, distilled off the solvent under reduced pressure to get title compound. Ethyl acetate (210 ml) was added to the obtained compound and stirred for 1 hour at 25-30° C. Filtered the reaction mixture to remove the unwanted solid and washed with ethyl acetate. Distilled off the solvent completely from the filtrate under reduced pressure to get semi-solid. Petroleum ether (210 ml) was added to the obtained semi-solid and stirred for 2 hours at 25-30° C. Filtered the precipitated solid, washed with petroleum ether and then dried to get title compound.

reactant | formyl hydrazine | 40.3 g | C(=O)NN | CH4N2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | (S)-2-(benzyloxy)propanal | C(C1=CC=CC=C1)O[C@H](C=O)C | C10H12O2
solvent | methanol | 290 ml | CO | CH4O
product | (S)—N′-(2-(benzyloxy)propylidene)formo hydrazide | C(C1=CC=CC=C1)O[C@H](C=NNC=O)C | C11H14N2O2
